US08802697B2
Synthesis of (2-amino-5-bromo-3-fluorophenyl)methanol
To a solution of 2-amino-5-bromo-3-fluorobenzoic acid (14.5 g, 62.2 mmol) in THF (150 mL) at 0° C. was added borohydride in THF (1 M, 310 mL), and the reaction mixture was stirred at RT overnight. LCMS showed the reaction was completed. The reaction was quenched with methanol (150 mL), concentrated in vacuum, diluted with aqueous sodium bicarbonate (400 mL) and extracted with ethyl acetate (200 mL*3). The organic layers were separated, combined, washed with water (200 mL) and brine (200 mL), dried over sodium sulfate, filtered and concentrated to afford the title compound (13.0 g, crude), which was directly used in the next step without the further purification. MS (ES+) C7H7BrFNO requires: 219, 221. found: 220, 222 [M+H]+.

reactant | 2-amino-5-bromo-3-fluorobenzoic acid | 62.2 mmol, 14.5 g | NC1=C(C(=O)O)C=C(C=C1F)Br | C7H5BrFNO2
reactant | borohydride | [BH4-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 310 mL | C1CCOC1 | C4H8O
product | (2-amino-5-bromo-3-fluorophenyl)methanol | 13.0 g | NC1=C(C=C(C=C1F)Br)CO | C7H7BrFNO
